US07528129B2
A1a) 4-(4-benzyl-piperazin-1-yl)-tetrahydropyran-4-carbonitrile
6.5 g (99.8 mmol) potassium cyanide were added to a solution of 10.0 g (96.9 mmol) tetrahydropyran-4-one and 17.1 g (97.0 mmol) 1-benzyl-piperazine in 25 mL 4 M HCl and 50 mL water while cooling with ice and the reaction mixture was stirred for 40 h at RT. The precipitate formed was suction filtered, washed with water and dried.

reactant | potassium cyanide | 99.8 mmol, 6.5 g | [C-]#N.[K+]
reactant | tetrahydropyran-4-one | 96.9 mmol, 10.0 g | O1CCC(CC1)=O | C5H8O2
reactant | 1-benzyl-piperazine | 97.0 mmol, 17.1 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | HCl | 4 M, 25 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 4-(4-benzyl-piperazin-1-yl)-tetrahydropyran-4-carbonitrile | C(C1=CC=CC=C1)N1CCN(CC1)C1(CCOCC1)C#N | C17H23N3O
